US05977384
3-[2-(4-Hydroxy-2-oxo-3H-1,3-benzothiazol-7-yl)ethylamino]-N-[2-(2-phenyl-1-propoxy)ethyl]propanesulphonamide hydrochloride.
The title compound (0.164 g) was prepared according to the procedure in example 5 part e using methyl 3-[2-(2-phenyl-1-propoxy)ethylaminosulphonyl]propanoate (1.01 g), diisobutylaluminiumhydride (1.5 M in toluene, 3 ml), 7-(2-aminoethyl)-4-hydroxy-1,3-benzothiazol-2(3H)-one hydrochloride (0.89 g) and sodium cyanoborohydride (0.19 g).

reactant | methyl 3-[2-(2-phenyl-1-propoxy)ethylaminosulphonyl]propanoate | 1.01 g | C1(=CC=CC=C1)C(COCCNS(=O)(=O)CCC(=O)OC)C | C15H23NO5S
reactant | diisobutylaluminiumhydride | 1.5 M, 3 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 7-(2-aminoethyl)-4-hydroxy-1,3-benzothiazol-2(3H)-one hydrochloride | 0.89 g | Cl.NCCC1=CC=C(C=2NC(SC21)=O)O
reactant | sodium cyanoborohydride | 0.19 g | C(#N)[BH3-].[Na+]
product | 3-[2-(4-Hydroxy-2-oxo-3H-1,3-benzothiazol-7-yl)ethylamino]-N-[2-(2-phenyl-1-propoxy)ethyl]propanesulphonamide hydrochloride | 0.164 g | Cl.OC1=CC=C(C2=C1NC(S2)=O)CCNCCCS(=O)(=O)NCCOCC(C)C2=CC=CC=C2 | InChI=1S/C23H31N3O5S2.ClH/c1-17(18-6-3-2-4-7-18)16-31-14-13-25-33(29,30)15-5-11-24-12-10-19-8-9-20(27)21-22(19)32-23(28)26-21;/h2-4,6-9,17,24-25,27H,5,10-16H2,1H3,(H,26,28);1H
